US06596900B2
Ethyl [(1RS,6RS,7SR)-7-(nitromethyl)bicyclo[4.2.0]oct-7-yl]acetate
(2Z/E)-(1RS,6RS)-Bicyclo[4.2.0]oct-7-ylideneethanoate (preparation 20) (5.47 g, 28.2 mmol) was heated to 60° C. in tetrahydrofuran (50 ml) with nitromethane (3.05 ml, 56.4 mmol) and tetrabutylammonium fluoride (1M in THF, 42 ml, 42.0 mmol). After 18 hrs the mixture was cooled to room temperature, diluted with ethyl acetate (200 ml) and washed with 2N HCl (2×100 ml) and then with brine. The organic phase was collected, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography (silica, EtOAc:heptane 1:9) to give 4.73 g of the title compound as a clear oil.

reactant | nitromethane | 56.4 mmol, 3.05 ml | [N+](=O)([O-])C | CH3NO2
reactant | tetrabutylammonium fluoride | 42.0 mmol, 1M, 42 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl [(1RS,6RS,7SR)-7-(nitromethyl)bicyclo[4.2.0]oct-7-yl]acetate | 4.73 g | [N+](=O)([O-])CC1(C2CCCCC2C1)CC(=O)OCC | C13H21NO4
